US07981903B2
A mixture of 1-(1-methylethyl)-4-[2-methyl-3-(methyloxy)-4-nitrophenyl]piperazine (5.5 g, 18.7 mmol) and Raney Ni (2 g) in 200 mL of MeOH was stirred under an atmosphere of H2 overnight. The mixture was filtered and taken to a residue under reduced pressure to afford 3-methyl-4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)aniline as a white solid (4.50 g, 91% yield). 1H NMR (400 MHz, CDCl3) δ ppm 1.10 (d, J=6.4 Hz, 6H), 2.24 (s, 3H), 2.73-2.67 (m, 5H), 2.89 (m, 4H), 3.63 (s, 2H), 3.73 (s, 3H), 6.58 (d, J=8.4 Hz, 1H), 6.71 (d, J=8.4 Hz, 1H).

reactant | 1-(1-methylethyl)-4-[2-methyl-3-(methyloxy)-4-nitrophenyl]piperazine | 18.7 mmol, 5.5 g | CC(C)N1CCN(CC1)C1=C(C(=C(C=C1)[N+](=O)[O-])OC)C | C15H23N3O3
solvent | MeOH | 200 mL | CO | CH4O
catalyst | Ni | 2 g | [Ni] | Ni
product | 3-methyl-4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)aniline | 4.50 g, 91% yield | CC=1C(=C(N)C=CC1N1CCN(CC1)C(C)C)OC | C15H25N3O
